US04692553
60 g of 5-(2-fluorophenyl)-cyclohexane-1,3-dione were dissolved in 500 ml of concentrated sulfuric acid at -20° C. and nitrated with 18.3 g of 98% strength nitric acid at -20° C. in the course of 60 minutes. The reaction mixture was stirred into 5 l of ice water, and the precipitated crystals were filtered off under suction and dried. 60.5 g (83% yield) of 5-(2-fluoro-5-nitrophenyl)-cyclohexane-1,3-dione of melting point 171°-173° C. were obtained.

reactant | 5-(2-fluorophenyl)-cyclohexane-1,3-dione | 60 g | FC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11FO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(2-fluoro-5-nitrophenyl)-cyclohexane-1,3-dione | 60.5 g, 83% yield | FC1=C(C=C(C=C1)[N+](=O)[O-])C1CC(CC(C1)=O)=O | C12H10FNO4
